US07749999B2
5-tert-Butyl-2-p-tolyl-2H-pyrazole-3-carboxylic acid.
To 5-tert-butyl-2-p-tolyl-2H-pyrazole-3-carboxylic acid ethyl ester (0.5 g, 1.75 mmol) in a 40 mL scintillation vial was added 2 mL THF and 2 mL 1N LiOH. The reaction was heated at 50° C. for 1 hr after which the reaction mixture was concentrated under vacuum and the crude residue was diluted with 5 mL 1N HCl. The reaction slurry was then extracted with DCM (3×25 mL) and the combined organic layers were washed with brine (10 mL) and dried over MgSO4. The resulting solution was concentrated under vacuum to yield the desired product (0.432 g, 96%) in >95% purity. The isolated material was used without further purification.

reactant | 5-tert-butyl-2-p-tolyl-2H-pyrazole-3-carboxylic acid ethyl ester | 1.75 mmol, 0.5 g | C(C)OC(=O)C=1N(N=C(C1)C(C)(C)C)C1=CC=C(C=C1)C | C17H22N2O2
reactant | LiOH | 1N, 2 mL | [Li+].[OH-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 5-tert-Butyl-2-p-tolyl-2H-pyrazole-3-carboxylic acid | 0.432 g, 96% | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)C(=O)O | C15H18N2O2
